US07622583B2
To a solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (3.27 g, 6.64 mmol) in THF (20 mL) under nitrogen atmosphere at 0° C. was added dropwise isopropylmagnesium chloride (2 M solution in THF, 6.62 mL, 13.25 mmol). The mixture was then stirred for 30 min at 0° C. followed by the addition of a solution of (3-formyl-pyridin-2-yl)-carbamic acid tert-butyl ester (590 mg, 2.65 mmol) in THF (3 mL) at 0° C. The mixture was stirred at room temperature for 3 hours, quenched with saturated aqueous NH4Cl solution (10 mL) and extracted with EtOAc (2×50 mL). Combined organic layers were washed with saturated aqueous NH4Cl solution (50 mL), brine (50 mL), dried (anhydrous Na2SO4) and concentrated under reduced pressure. Obtained residue was column purified (SiO2, 50% EtOAc-hexanes) to obtain [3-({5-chloro-3-[(4-chloro-3-trifluoromethyl-benzene sulfonyl)-methoxymethyl-amino]-pyridin-2-yl}-hydroxy-methyl)-pyridin-2-yl]-carbamic acid tert-butyl ester (750 mg) in 44% yield as yellow solid. ESMS m/z (relative intensity): 637 (M+H)+ (100).

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 6.64 mmol, 3.27 g | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesium chloride | 13.25 mmol, 2 M, 6.62 mL | C(C)(C)[Mg]Cl
reactant | (3-formyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 2.65 mmol, 590 mg | C(C)(C)(C)OC(NC1=NC=CC=C1C=O)=O | C11H14N2O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | [3-({5-chloro-3-[(4-chloro-3-trifluoromethyl-benzene sulfonyl)-methoxymethyl-amino]-pyridin-2-yl}-hydroxy-methyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | 750 mg, 44% yield | C(C)(C)(C)OC(NC1=NC=CC=C1C(O)C1=NC=C(C=C1N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)=O | C25H25Cl2F3N4O6S
